US04082764
To a solution of 2.7 parts of 5-chloro-2-formamidobenzophenone in 40 volume parts of ethanol is added 2.5 volume parts of hydrazine hydrate, followed by refluxing for 20 minutes. After cooling, the resulting crystals are recovered by filtration and washed with ethanol and ether and then dried. This procedure gives 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline as crystals melting at 189° to 192° C. Yield: 95%.

reactant | 5-chloro-2-formamidobenzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC=O | C14H10ClNO2
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline | Yield: 95% | NN1C=NC2=CC=C(C=C2C1(C1=CC=CC=C1)O)Cl | C14H12ClN3O
